US07037905B2
2-(3-Trifluoromethylphenyl)-[1,3,6,2]dioxazaborocane
The title compound (79%, crystals) was prepared from 3-trifluoromethylphenylboronic acid and diethanolamin.

reactant | 3-trifluoromethylphenylboronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | diethanolamin | N(CCO)CCO | C4H11NO2
product | 2-(3-Trifluoromethylphenyl)-[1,3,6,2]dioxazaborocane | 79% | FC(C=1C=C(C=CC1)B1OCCNCCO1)(F)F | C11H13BF3NO2
